US04863958
A solution of 2-benzyl-3-methyl-5,6-methylenedioxybenzofuran (226 mg, 0.85 mmole) in methylene chloride (10 mL) was cooled at -65° C. and a 1M solution of boron tribromide in methylene chloride (0.85 mL) was added dropwise. The mixture was allowed to warm up to -25° C. and was kept in that range for 1 hour. Methanol (5 mL) was then added and the mixture was evaporated in vacuo. The residue was chromatographed on silica gel and eluted with 25% ethylacetate in hexane to yield 128 mg of 2-benzyl-3-methyl-5,6-dihydroxybenzofuran, mp. 95.5°-98° C.

reactant | 2-benzyl-3-methyl-5,6-methylenedioxybenzofuran | 0.85 mmole, 226 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C)C=C1C(=C2)OCO1 | C17H14O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 5 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.85 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyl-3-methyl-5,6-dihydroxybenzofuran | 128 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C)C=C(C(=C2)O)O | C16H14O3
